US08877744B2
A dried flask was charged under an atmosphere of argon with a solution of 6-iodo-nicotinonitrile (25 mg, 109 μmol) and (R)-6,6-Difluoro-5-(2-fluoro-5-trimethylsilanylethynyl-phenyl)-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine (50 mg, 131 μmol) in dimethylformamide (368 μl) (solution A). A second dried flask was charged under an atmosphere of argon with dimethylformamide (368 μl), then successively with bis(triphenylphosphine)palladium(II)chloride (5.47 mg, 7.6 μmol), triphenylphoshine (1.14 mg, 4.4 μmol), copper(I)iodide (0.42 mg, 2.1 μmol), triethylamine (55.2 mg, 0.545 mmol), and tetrabutylammoniumiodide (41.1 mg, 109 μmol) were added. The mixture was heated to 40° C., and solution A was added dropwise. The temperature was raised to 60° C. and a solution of tetrabutylammoniumfluoride (1M in tetrahydrofuran; 142 μl) was added dropwise. Stirring was continued for 16 hours. For the workup, the reaction mixture was evaporated at reduced pressure and the residue directly purified by chromatography on silica gel using a gradient of heptane/ethyl acetate=100:0 to 50:50 as the eluent. The 6-[3-((R)-3-amino-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-5-yl)-4-fluoro-phenylethynyl]-nicotinonitrile (18 mg, 40% yield) was obtained as a colorless oil. MS (ISP): m/z=413.2 [M+H]+.

reactant | 6-iodo-nicotinonitrile | 109 μmol, 25 mg | IC1=NC=C(C#N)C=C1 | C6H3IN2
reactant | (R)-6,6-Difluoro-5-(2-fluoro-5-trimethylsilanylethynyl-phenyl)-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine | 131 μmol, 50 mg | FC1([C@@](N=C(COC1(C)C)N)(C)C1=C(C=CC(=C1)C#C[Si](C)(C)C)F)F | C19H25F3N2OSi
reactant | triphenylphoshine | 4.4 μmol, 1.14 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.545 mmol, 55.2 mg | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammoniumfluoride | 1M, 142 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 368 μl | CN(C=O)C | C3H7NO
catalyst | tetrabutylammoniumiodide | 109 μmol, 41.1 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | bis(triphenylphosphine)palladium(II)chloride | 7.6 μmol, 5.47 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 2.1 μmol, 0.42 mg | [Cu]I
solvent | dimethylformamide | 368 μl | CN(C=O)C | C3H7NO
product | 6-[3-((R)-3-amino-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-5-yl)-4-fluoro-phenylethynyl]-nicotinonitrile | 18 mg, 40% yield | NC=1COC(C([C@@](N1)(C)C=1C=C(C=CC1F)C#CC1=NC=C(C#N)C=C1)(F)F)(C)C | C22H19F3N4O
